Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Vitamin K Analogues / Aspirin 
/ NSAIDS / Tylenol
 
Attending: ___.
 
Chief Complaint:
adrenal mass
 
Major Surgical or Invasive Procedure:
 Laparoscopic right adrenalectomy

 
History of Present Illness:
___ w/ slowly growing right adrenal mass in a relatively healthy 
woman.  
 
Past Medical History:
She has had a small right adrenal mass since at least ___ and
measured 2.2 x 2.4 cm.  More recently, it measured 3.2 cm.  She
has no systemic issues, particularly no night sweats, fevers,
bowel issues, palpitations, headaches, nausea, vomiting, fever,
chills, or urinary trouble.

Past Medical History:  Cirrhosis/autoimmune hepatitis ___,
hypertension, kidney stones spontaneously passed, hysterectomy
and BSO ___, appendectomy ___, and hysterectomy ___.
 
Social History:
___
Family History:
 Negative for kidney or bladder cancer.

 
Physical Exam:
___ male, NAD, AVSS
Interactive, cooperative
Abdomen soft, appropriately tender along incisions
Incisions c/d/i w/out evidence hematoma, infection
Extremities w/out edema or pitting and no report of calf pain

 
Pertinent Results:
___ 07:05AM BLOOD WBC-6.2 RBC-3.43* Hgb-10.4* Hct-31.8* 
MCV-93 MCH-30.3 MCHC-32.7 RDW-12.4 Plt ___
___ 07:05AM BLOOD Glucose-126* UreaN-12 Creat-0.7 Na-140 
K-3.9 Cl-107 HCO3-30 AnGap-7*
___ 07:05AM BLOOD Calcium-8.6 Mg-2.3
 
Brief Hospital Course:
Ms. ___ was admitted to Urology after undergoing 
laparoscopic right adrenalectomy. No concerning intraoperative 
events occurred; please see dictated operative note for details. 
The patient received perioperative antibiotic prophylaxis. The 
patient was transferred to the floor from the PACU in stable 
condition. On POD0, pain was well controlled on PCA, hydrated 
for urine output >30cc/hour, provided with pneumoboots and 
incentive spirometry for prophylaxis, and ambulated once.  

On POD1, the patient was restarted on home medications, basic 
metabolic panel and complete blood count were checked, pain 
control was transitioned from PCA to oral analgesics, diet was 
advanced to a clears/toast and crackers diet. On POD1 urethral 
Foley catheter was removed without difficulty and diet was 
advanced as tolerated. The remainder of the hospital course was 
relatively unremarkable. The patient was discharged in stable 
condition, eating well, ambulating independently, voiding 
without difficulty, and with pain control on oral analgesics. On 
exam, incision was clean, dry, and intact, with no evidence of 
hematoma collection or infection. The patient was given explicit 
instructions to follow-up in clinic with Dr. ___ in 3 weeks.

 
Medications on Admission:
Allergies:  Sulfa, vitamin K, Tylenol, Advil, aspirin, and
NSAIDs.

Medications:  Hydrochlorothiazide, oxazepam, trazodone,
multivitamins, and vitamin D.
 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
2. trazodone 100 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime) as needed for insomnia.  
3. oxazepam 10 mg Capsule Sig: One (1) Capsule PO TID (3 times a 
day).  
4. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Vitamin D  Oral
6. hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
7. oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain > ___.
Disp:*35 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
POSTOPERATIVE DIAGNOSIS:  Adrenal mass.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please also refer to the provided written instructions on 
post-operative care, instructions and expectations made 
available from Dr. ___ office.

-Resume your pre-admission/home medications except as noted. 
ALWAYS call to inform, review and discuss any medication changes 
and your post-operative course with your primary care doctor.

-___ not lift anything heavier than a phone book (10 pounds) or 
drive until you are seen by your Urologist in follow-up

-Resume all of your pre-admission/home medications except as 
noted. 
-Call your Urologist's office today to schedule/confirm your 
follow-up appointment in 3 weeks AND if you have any questions.

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

-Take the narcotic pain medication as prescribed if additional 
pain relief is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark tarry stools)

-You may shower normally but do NOT immerse your incisions or 
bathe

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool-softener, NOT a laxative

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.

 
Followup Instructions:
___